US06313107B1
8-Acetyl-6-bromo-2,2,4,4-tetramethyl chroman (Intermediate 45)
A stirred, cooled (ice bath) suspension of aluminum chloride (0.99 g, 7.46 mmol) in anhydrous dichloromethane (20 mL) was treated with acetyl chloride (0.58 g, 7.46 mmol). After 5 minutes, a solution of 6-bromo-2,2,4,4-tetramethyl chroman (1 g, 3.73 mmol)in dichloromethane was added. The reaction was allowed to warm to ambient temperature and stirred for 2 h. The reaction mixture was then poured into ice containing 10% hydrochloric acid and extracted with diethyl ether (×2). The combined organic phase was washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to a residue which was subjected to flash column chromatography over silica gel (230-400 mesh) using 5% ethyl acetate in hexane as the eluent to afford the title compound as a pale yellow oil (0.95 g, 83%). It was used as such for the next step without any characterization.

reactant | aluminum chloride | 7.46 mmol, 0.99 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 7.46 mmol, 0.58 g | C(C)(=O)Cl | C2H3ClO
reactant | 6-bromo-2,2,4,4-tetramethyl chroman | 3.73 mmol, 1 g | BrC=1C=C2C(CC(OC2=CC1)(C)C)(C)C | C13H17BrO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 8-Acetyl-6-bromo-2,2,4,4-tetramethyl chroman | 0.95 g, 83% | C(C)(=O)C=1C=C(C=C2C(CC(OC12)(C)C)(C)C)Br | C15H19BrO2
